US03998818
7-Trifluoroethylmercaptoacetamido-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid
7-Amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (3.96 g, 14 mmol) was reacted with trifluoroethylmercaptoacetyl chloride in the same manner as described in Example 1. After stirring at room temperature the solution was diluted with water (50 ml), washed with ether (3 × 150 ml), acidified to pH 2 with 3N HCl and extracted with ethyl acetate (3 × 150 ml). The extracts were washed with water, dried, and concentrated. The product was collected and converted to its sodium salt by the procedure in Example 1.

reactant | 7-Amino-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 14 mmol, 3.96 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
reactant | trifluoroethylmercaptoacetyl chloride | FC(CSCC(=O)Cl)(F)F | C4H4ClF3OS
solvent | water | 50 ml | O | H2O
product | 7-Trifluoroethylmercaptoacetamido-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | FC(CSCC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)(F)F | C15H15F3N4O4S4
